US06933299B1
(4-(3-Fluorobenzyloxy)-3-chlorophenyl)-(6-(2-(2-(methylsulfonyl)acetamidoethyl)-thiazol-4-yl)-quinazolin-4-yl)-amine
(4-(3-Fluorobenzyloxy)-3-chlorophenyl)-(6-(2-(2-aminoethyl)-thiazol-4-yl)-quinazolin-4-yl)-amine (0.229 mmol) was reacted with methanesulfonyl acetic acid (0.252 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.252 mmol) in DMF as outlined in procedure (I) to provide the title compound after purification by chromatography. 1H NMR (CDCl3) δ 8.82 (s, 1H), 8.68 (s, 1H), 8.44 (s, 1H), 8.14 (d, 1H), 8.02 (m, 1H), 7.92 (d, 1H), 7.81 (s, 1H), 7.62 (m, 1H), 7.55 (s, 1H), 7.36 (m, 1H), 7.21 (m, 2H), 7.02 (m, 2H), 5.18 (s, 2H), 3.95 (s, 2H), 3.91 (m, 2H), 3.36 (m, 2H), 2.88 (s, 3H). Electrospray MS m/z 625.87 (MH+).

reactant | (4-(3-Fluorobenzyloxy)-3-chlorophenyl)-(6-(2-(2-aminoethyl)-thiazol-4-yl)-quinazolin-4-yl)-amine | 0.229 mmol | FC=1C=C(COC2=C(C=C(C=C2)NC2=NC=NC3=CC=C(C=C23)C=2N=C(SC2)CCN)Cl)C=CC1 | C26H21ClFN5OS
reactant | methanesulfonyl acetic acid | 0.252 mmol | CS(=O)(=O)CC(=O)O | C3H6O4S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.252 mmol | Cl.CN(CCCN=C=NCC)C
solvent | DMF | CN(C)C=O | C3H7NO
product | (4-(3-Fluorobenzyloxy)-3-chlorophenyl)-(6-(2-(2-(methylsulfonyl)acetamidoethyl)-thiazol-4-yl)-quinazolin-4-yl)-amine | FC=1C=C(COC2=C(C=C(C=C2)NC2=NC=NC3=CC=C(C=C23)C=2N=C(SC2)CCNC(CS(=O)(=O)C)=O)Cl)C=CC1 | C29H25ClFN5O4S2
